US07459467B2
In a reaction vessel, 100 gm methylphenidate, 1000 ml isopropyl alcohol were mixed at 30 to 35° C., cool the mixture to 10 to 15° C. To this mixture Isopropanol hydrochloride solution (18-20% HCl (dry) in isopropyl alcohol) was added by maintaining the reaction mass below 15° C. This was maintained for about 5 hours at 30° C., cooled to 10° C. and filtered to isolate methylphenidate hydrochloride. The precipitate was washed with isopropyl alcohol and dried at 60 to 70° C.

reactant | methylphenidate | 100 gm | COC(=O)C(C=1C=CC=CC1)C2CCCCN2 | C14H19NO2
reactant | Isopropanol hydrochloride | Cl.C(C)(C)O
solvent | isopropyl alcohol | 1000 ml | C(C)(C)O | C3H8O
product | methylphenidate hydrochloride | COC(=O)C(C=1C=CC=CC1)C2CCCCN2.Cl | InChI=1S/C14H19NO2.ClH/c1-17-14(16)13(11-7-3-2-4-8-11)12-9-5-6-10-15-12;/h2-4,7-8,12-13,15H,5-6,9-10H2,1H3;1H
